US08232409B2
D. 3-[7-Methyl-5-(2,6-difluorophenyl)-1H-benzimidazol-2-yl]-1-oxa-2-aza-spiro[4.5]dec-2-ene
2′,6′-Difluoro-5-methyl-biphenyl-3,4-diamine (186 mg, 0.792 mmol, as prepared in the previous step) was placed in an 8 mL vial equipped with a stir bar, and dry DMF (2 mL) was added. 1-Oxa-2-aza-spiro[4.5]dec-2-ene-3-carbaldehyde (122 mg, 0.730 mmol, as prepared in step B of this Example) was added as a solution in DMF (2 mL). Solid Na2S2O5 (153 mg, 0.803 mmol) was added, and the mixture was heated to 100° C. for 4 h. The cooled mixture was poured into water (100 mL) and extracted three times with EtOAc (50 mL). The combined organic extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. The residue was purified by column chromatography using a 4-g SiO2 pre-packed column eluting with EtOAc/hexanes, 0:1 to 3:17, v/v over 30 min, yielding 105 mg (38%) of the title compound. 1H-NMR (400 MHz, d6-DMSO) δ: 7.43-7.55 (m, 2H), 7.15-7.30 (m, 3H), 3.35 (s, 2H), 2.61 (s, 3H), 1.63-1.83 (m, 6H), 1.34-1.57 (m, 4H). Mass Spectrum (LCMS, ESI pos.): Calcd. for C22H21F2N3O: 382.2 (M+H). found: 382.2.

reactant | 2′,6′-Difluoro-5-methyl-biphenyl-3,4-diamine | FC1=C(C(=CC=C1)F)C1=CC(=C(C(=C1)C)N)N | C13H12F2N2
reactant | 1-Oxa-2-aza-spiro[4.5]dec-2-ene-3-carbaldehyde | O1N=C(CC12CCCCC2)C=O | C9H13NO2
reactant | water | 100 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-[7-Methyl-5-(2,6-difluorophenyl)-1H-benzimidazol-2-yl]-1-oxa-2-aza-spiro[4.5]dec-2-ene | 105 mg, 38% | CC1=CC(=CC2=C1NC(=N2)C2=NOC1(C2)CCCCC1)C1=C(C=CC=C1F)F | C22H21F2N3O
